US08859615B2
Preparation of (1R,7R,8R)-1-phenyl-2,4-pentadecadiyne-1,7,8-triol
Copper(I) chloride (6.4 mg, 64.6 μmol, 20 mol %) was added to a stirred solution of n-BuNH2 (0.32 mL) and distilled water (0.74 mL) at 0° C., which resulted in a deep blue solution. A few crystals of NH2OH.HCl were added to get a colorless solution which is indicative of the presence of the required Cu(I) salt. At the same temperature was added (4R,5R)-1-dodecyne-4,5-diol (64.1 mg, 0.323 mmol) by cannula as a solution in CH2Cl2 (0.6 mL). Then a freshly prepared solution of (R)-3-bromo-1-phenyl-2-propyn-1-ol (75.0 mg, 0.355 mmol, 1.1 equiv) in CH2Cl2 (2.4 mL) was slowly added over 60 min by help of syringe pump under a flow of argon in order to prevent the solution from turning to green or blue (NH2OH.HCl can be added as necessary throughout the reaction). The reaction mixture was allowed to warm up to room temperature. After stiffing for 10˜20 minutes, the brownish orange colored solution was extracted three times with CH2Cl2, washed with brine, dried over Na2SO4, filtered and concentrated. The reaction procedure in Cho, E. J.; Kim, M.; Lee, D. Org. Lett. 2006, 8, 5413-54169 and supporting information, both of which are incorporated herein by reference in their entireties, can also be followed. Purification of the crude mixture by gradient flash chromatography on silica gel (hexanes/EtOAc=2.5:1→2:1→1.5:1→1:1) afforded the title compound (83.2 mg, 78%) as a white solid: 1H-NMR (CDCl3, 500 MHz) δ 7.51-7.38 (m, 2H), 7.40-7.32 (m, 3H), 5.50 (s, 1H), 3.63-3.60 (m, 2H), 2.62-2.53 (m, 3H), 2.17 (br s, 1H), 1.68 (br s, 1H), 1.50-1.28 (m, 12H), 0.88 (t, J=7.0 Hz, 3H); 13C-NMR (CDCl3, 75 MHz) δ 139.68, 128.71, 128.62, 126.60, 78.40, 75.64, 73.07, 72.11, 71.23, 66.52, 64.86, 33.49, 31.78, 29.52, 29.20, 25.55, 24.92, 22.62, 14.09.

reactant | n-BuNH2 | 0.32 mL | C(CCC)N | C4H11N
reactant | NH2OH.HCl | NO.Cl
reactant | (4R,5R)-1-dodecyne-4,5-diol | 0.323 mmol, 64.1 mg | C#CC[C@H]([C@@H](CCCCCCC)O)O | C12H22O2
reactant | (R)-3-bromo-1-phenyl-2-propyn-1-ol | 0.355 mmol, 75.0 mg, 1.1 equiv | BrC#C[C@H](O)C1=CC=CC=C1 | C9H7BrO
solvent | CH2Cl2 | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.4 mL | C(Cl)Cl | CH2Cl2
catalyst | Copper(I) chloride | 64.6 μmol, 6.4 mg | [Cu]Cl
product | (1R,7R,8R)-1-phenyl-2,4-pentadecadiyne-1,7,8-triol | 83.2 mg, 78% | C1(=CC=CC=C1)[C@H](C#CC#CC[C@H]([C@@H](CCCCCCC)O)O)O | C21H28O3
